US05780482
A mixture of ethyl 4-chloro-6-ethoxy-1,5-naphthyridine-3-carboxylate (17.95 g), 4-methoxyaniline (8.29 g), anhydrous potassium carbonate (18.6 g) and THF (250 ml) was stirred at ambient temperature for 48 hours. The mixture was evaporated to dryness and water was added to the residue. The mixture was extracted with dichloromethane to give a solid which was dissolved in IMS (50 ml). The solution was saturated with hydrogen chloride gas whilst cooling the mixture in ice. Ether was added to induce precipitation. The solid was collected by filtration to give ethyl 6-ethoxy-4-(4-methoxyanilino)-1,5-naphthyridine-3-carboxylate hydrochloride, m.p. 160°-162° C. Active (3/3) at 30 mg/kg.

reactant | ethyl 4-chloro-6-ethoxy-1,5-naphthyridine-3-carboxylate | 17.95 g | ClC1=C(C=NC2=CC=C(N=C12)OCC)C(=O)OCC | C13H13ClN2O3
reactant | 4-methoxyaniline | 8.29 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | potassium carbonate | 18.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen chloride | Cl | ClH
solvent | Ether | CCOCC | C4H10O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | ethyl 6-ethoxy-4-(4-methoxyanilino)-1,5-naphthyridine-3-carboxylate hydrochloride | Cl.C(C)OC=1N=C2C(=C(C=NC2=CC1)C(=O)OCC)NC1=CC=C(C=C1)OC | InChI=1S/C20H21N3O4.ClH/c1-4-26-17-11-10-16-19(23-17)18(15(12-21-16)20(24)27-5-2)22-13-6-8-14(25-3)9-7-13;/h6-12H,4-5H2,1-3H3,(H,21,22);1H
